2181-02-21 04:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Per renal no indication for CVVH at this time; would require putting a
   line in him
   -Cortisol stim not c/w adrenal insufficiency therefore stress dose
   steroids d/c'd
   -did not require additional IVF boluses after the 1L he got in the
   morning
   -started insulin gtt for persistant glucose around 360 not controlled
   by IV insulin bolus
   -Plan for HD today
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 07:00 PM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Insulin - Regular - [**2181-2-20**] 05:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-21**] 04:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.1
   HR: 96 (79 - 105) bpm
   BP: 101/52(62){70/34(47) - 123/56(78)} mmHg
   RR: 28 (24 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,374 mL
                                                                    313 mL
   PO:
             TF:
                                                                    601 mL
                                                                    239 mL
   IVF:
                                                                    133 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    580 mL
                                                                      0 mL
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                  1,899 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.52/31/154/25/3
   PaO2 / FiO2: 440
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   131 mg/dL
   6.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   81 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2181-2-17**]  05:38 AM
                             [**2181-2-18**]  03:41 AM
                             [**2181-2-19**]  05:10 AM
                             [**2181-2-20**]  02:11 AM
                             [**2181-2-20**]  07:47 AM
                             [**2181-2-20**]  10:30 AM
                             [**2181-2-20**]  04:28 PM
                             [**2181-2-21**]  03:14 AM
   WBC
   13.0
   13.7
   14.3
   14.5
   16.5
   Hct
   30.5
   31.7
   28.4
   26.4
   25.1
   Plt
   279
   250
   212
   218
   218
   Cr
   3.9
   5.7
   7.5
   4.8
   6.0
   TropT
   0.39
   0.37
   TCO2
   26
   Glucose
   72
   153
   280
   210
   131
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:215/4/0.37, ALT / AST:34/43, Alk Phos / T Bili:61/0.7,
   Lactic Acid:2.2 mmol/L, LDH:291 IU/L, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPERNATREMIA (HIGH SODIUM)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   keep K >4
 ANEMIA, CHRONIC
   [**3-3**] CKD (baseline HCT 24-28)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Left MCA infarct
 .H/O ARTHRITIS, OTHER
   GOUT
 .H/O DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2181-2-21**] 12:50 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2181-2-20**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-21 06:51:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 PICC LINE - START [**2181-2-20**] 12:00 PM
   placed prior  to this admit  [**2-7**] in ir
 EKG - At [**2181-2-20**] 02:00 PM
   -Per renal no indication for CVVH at this time; would require putting a
   line in him
   -Cortisol stim not c/w adrenal insufficiency therefore stress dose
   steroids d/c'd
   -did not require additional IVF boluses after the 1L he got in the
   morning
   -started insulin gtt for persistent glucose around 360 not controlled
   by IV insulin bolus
   -Plan for HD today
   History obtained from Medical records
   Allergies:
   History obtained from Medical records
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 07:00 PM
   Piperacillin - [**2181-2-21**] 06:00 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Insulin - Regular - [**2181-2-20**] 05:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-21**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.1
   HR: 96 (79 - 105) bpm
   BP: 120/54(68){70/34(47) - 123/56(78)} mmHg
   RR: 25 (24 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,374 mL
                                                                    533 mL
   PO:
             TF:
                                                                    601 mL
                                                                    332 mL
   IVF:
                                                                    133 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    580 mL
                                                                      0 mL
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                  1,899 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.52/31/154/25/3  (7:00 PM [**2-20**] on FiO2 35%--jw)
   PaO2 / FiO2: 440
   Physical Examination
   Peripheral Vascular: (Right radial pulse: trace, but hand is WWP),
   (Left radial pulse: ++), (Right DP pulse: +), (Left DP pulse: ++)
   Skin:  No new rashes/lesions in limited exam; ecchymoses c/w abdominal
   SC injections
   Neurologic: Responds to: voice, intermittently--?small response to
   request to open mouth
   HEENT: anicteric; limited mouth exam suggests MMM, OP could not be
   well-visualized
   Pulm: Projection of upper airway ronchi/vent sounds, intact but not
   large air movement bilaterally
   Cor: RRR, 2/6 systolic murmur heard best at base
   Abd: distended, appears to flinch to palpation at RLQ, soft, bs+
   Ext: pulses as above; warm and well perfused; 1+ non-pitting edema
   Labs / Radiology
   218 K/uL
   7.6 g/dL
   131 mg/dL
   6.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   81 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2181-2-17**]  05:38 AM
                             [**2181-2-18**]  03:41 AM
                             [**2181-2-19**]  05:10 AM
                             [**2181-2-20**]  02:11 AM
                             [**2181-2-20**]  07:47 AM
                             [**2181-2-20**]  10:30 AM
                             [**2181-2-20**]  04:28 PM
                             [**2181-2-21**]  03:14 AM
   WBC
   13.0
   13.7
   14.3
   14.5
   16.5
   Hct
   30.5
   31.7
   28.4
   26.4
   25.1
   Plt
   279
   250
   212
   218
   218
   Cr
   3.9
   5.7
   7.5
   4.8
   6.0
   TropT
   0.39
   0.37
   0.36
   TCO2
   26
   Glucose
   72
   153
   280
   210
   131
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:215/5/0.36, ALT / AST:34/43, Alk Phos / T Bili:61/0.7,
   Lactic Acid:2.2 mmol/L, LDH:291 IU/L, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN);
   PNEUMONIA, OTHER
   Fever is resolving in the face of new antibiotics. Likely the result of
   pneumonia, covering for pseudomonas and hospital organisms given trach
   and hospital stay. Following cultures, no new data this am.
 HYPOTENSION (NOT SHOCK)
   With resolution of fever also appears to be resolving. Fluid
   responsive. Course consistent with peri-sepsis/SIRS, now resolving with
   antibiotics. Follow, give fluid boluses as needed. If he has
   hypotension in the absence of infectious symptoms would then expand
   differential, consider echo, etc.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Semi responsive today. Likely near baseline per past neuro recs. Will
   continue to follow and assess. [**Month (only) 60**] improve with treatment of infection
   if this is not purely the result of stroke.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Dialysis today, appreciate renal recs and involvement
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   keep K >4
 ANEMIA, CHRONIC
   [**3-3**] CKD (baseline HCT 24-28); transfuse <21
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Left MCA infarct
 .H/O ARTHRITIS, OTHER
   GOUT
 .H/O DIABETES MELLITUS (DM), TYPE II
   Transition back to SC insulin, NPH + humalog scale, likely will need
   increase; recent spike consistent with effect of stress dose steroids
   and perhaps underlying infection as well. Both should resolve and
   insulin need may decrease in next several days.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2181-2-21**] 12:50 AM 50 mL/hour
   Glycemic Control:  currently on insulin drip after glucose spike
   Lines:
   PICC Line - [**2181-2-20**] 12:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With family Comments:
   Code status: Full code
   Disposition: ICU vs vent rehab

2181-02-21 10:37:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, hypotension, chronic renal
   failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP improved. Requiring fewer fluid boluses for sustaining pressure.
   Afebrile since noon yesterday.
   24 Hour Events:
 PICC LINE - START [**2181-2-20**] 12:00 PM
   placed prior  to this admit  [**2-7**] in ir
 EKG - At [**2181-2-20**] 02:00 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 07:00 PM
   Piperacillin - [**2181-2-21**] 06:00 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Insulin - Regular - [**2181-2-20**] 05:10 PM
   Other medications:
   Heparin sc
   ASA
   Allopurinol
   Atrovent
   albuterol
   Vanco with HD
   MVI
   Folic Acid
   Epogen
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Trach mask
   Gastrointestinal: PEG
   Neurologic: Not responsive
   Flowsheet Data as of  [**2181-2-21**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 102 (79 - 105) bpm
   BP: 119/51(67){70/34(47) - 123/56(78)} mmHg
   RR: 32 (24 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,374 mL
                                                                    800 mL
   PO:
             TF:
                                                                    601 mL
                                                                    492 mL
   IVF:
                                                                    133 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    580 mL
                                                                     60 mL
   Stool:
                                                                    475 mL
   Drains:
   Balance:
                                                                  1,899 mL
                                                                    800 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.52/31/154
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Both bases, No(t) Bronchial: , No(t) Wheezes : , Diminished: , No(t)
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Tender:
   Bowel sounds diminished, Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed, Squeezed hand
   Labs / Radiology
   7.6 g/dL
   218 K/uL
   131 mg/dL
   6.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   81 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2181-2-17**]  05:38 AM
                             [**2181-2-18**]  03:41 AM
                             [**2181-2-19**]  05:10 AM
                             [**2181-2-20**]  02:11 AM
                             [**2181-2-20**]  07:47 AM
                             [**2181-2-20**]  10:30 AM
                             [**2181-2-20**]  04:28 PM
                             [**2181-2-21**]  03:14 AM
   WBC
   13.0
   13.7
   14.3
   14.5
   16.5
   Hct
   30.5
   31.7
   28.4
   26.4
   25.1
   Plt
   279
   250
   212
   218
   218
   Cr
   3.9
   5.7
   7.5
   4.8
   6.0
   TropT
   0.39
   0.37
   0.36
   TCO2
   26
   Glucose
   72
   153
   280
   210
   131
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:215/5/0.36, ALT / AST:34/43, Alk Phos / T Bili:61/0.7,
   Lactic Acid:2.2 mmol/L, LDH:291 IU/L, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPERNATREMIA (HIGH SODIUM)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   keep K >4
 ANEMIA, CHRONIC
   [**3-3**] CKD (baseline HCT 24-28)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Left MCA infarct
 .H/O DIABETES MELLITUS (DM), TYPE II
   Patient improving. Definitely responding to verbal stimuli today and
   following simple commands.
   Hemodyanamics improved with less reliance on fluid boluses for
   sustaining BP.
   Afebrile for nearly 24 hours. Continue antibiotics.
   Blood sugars up yesterday when given stress dose steroids. Improving
   now. Expect to be able to eliminate IV insulin today.
   Patient due for dialysis today. Probably beginning to become volume
   overloaded by exam.
   Hct drifting down. Not at transfusion threshold yet.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   PICC Line - [**2181-2-20**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU - reassess for [**Hospital1 82**] for tomorrow.
   Total time spent: 30 minutes

2181-02-22 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pt had HD with removal of 3.2 L.  Pt reportedly never hypotensive
   during HD, but on floor at 1:30AM SBP 81.  250 cc NS bolus given and BP
   responded to 123/50.
   -CXR obtained, which showed no change from previous
   -Low grade temp to 101.  Tylenol given.
   -Per Case Management, Bed will be available at [**Hospital1 82**] on Thursday.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 07:00 PM
   Piperacillin - [**2181-2-22**] 05:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-22**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 100 (89 - 122) bpm
   BP: 119/50(68){75/42(52) - 123/84(88)} mmHg
   RR: 30 (17 - 51) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 64 Inch
             Total In:
                                                                  1,717 mL
                                                                    882 mL
   PO:
             TF:
                                                                  1,268 mL
                                                                    427 mL
   IVF:
                                                                    329 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    120 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,483 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, MMM, clear OP in limited exam
   Cardiovascular: No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally,
   Diminished: at bases, Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Responds to command to squeeze and unsqueeze left hand.
   Unable to develop "yes"/
 responses w/blinks/squeezes
   Labs / Radiology
   225 K/uL
   7.7 g/dL
   128 mg/dL
   3.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   43 mg/dL
   111 mEq/L
   150 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2181-2-17**]  05:38 AM
                             [**2181-2-18**]  03:41 AM
                             [**2181-2-19**]  05:10 AM
                             [**2181-2-20**]  02:11 AM
                             [**2181-2-20**]  07:47 AM
                             [**2181-2-20**]  10:30 AM
                             [**2181-2-20**]  04:28 PM
                             [**2181-2-21**]  03:14 AM
                             [**2181-2-22**]  03:55 AM
   WBC
   13.0
   13.7
   14.3
   14.5
   16.5
   10.1
   Hct
   30.5
   31.7
   28.4
   26.4
   25.1
   25.6
   Plt
   279
   250
   212
   [**Telephone/Fax (3) 135**]
   Cr
   3.9
   5.7
   7.5
   4.8
   6.0
   3.7
   TropT
   0.39
   0.37
   0.36
   TCO2
   26
   Glucose
   72
   153
   280
   210
   131
   128
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:215/5/0.36, ALT / AST:34/43, Alk Phos / T Bili:61/0.7,
   Lactic Acid:2.2 mmol/L, LDH:291 IU/L, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   [**Last Name (un) 45**] stim wnl, pt with severe AS (valve area 0.8 cm2), ? septic
   physiology
   Mr [**Known lastname 165**]
s AS makes him extremely preload dependent and fluid shifts
   post-dialysis may have greater effects on his blood pressure than they
   would for others. He responded well to a single small bolus. He is
   likely to continue to have transient episodes of hypotension because of
   his need for dialysis and his AS.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Still treating with vanco/zosyn. Fevers may be result of medications.
   Adding on diff to check for eosinophilia. Not clear where or with what
   he might be infected that could cause him continuing fevers; could be
   organism incompletely treated with vanco/zosyn; probably more likely
   non-infectious cause. Follow closely.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   HD yesterday. Did fine with this. As above, brief episode of
   hypotension may have been related but was distant temporally. No
   contraindication to continuing apace with HD at his regular schedule.
   Hyponatremic
free water deficit
make up today via free water boluses.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Likely at baseline; unfortunately limited interactivity limits any
   detailed assessment.
 PNEUMONIA, OTHER
   no clear infiltrate currently present on CXR. Treating with vanc/zosyn.
 .H/O DIABETES MELLITUS (DM), TYPE II
   now off insulin gtt, on SC
tapering for control
good control currently.
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Left MCA infarct
 ANEMIA, CHRONIC
   [**3-3**] CKD (baseline HCT 24-28). No need to transfuse today.
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   keep K >4
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2181-2-22**] 01:46 AM 52.[**Telephone/Fax (5) 136**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2181-2-20**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To [**Hospital1 82**] or floor.

2181-02-22 11:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, altered mental status, s/p CVA,
   hypotension, CRF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had dialysis yesterday without event. One episode of hypotension last
   night that responded to fluid bolus. O2 sats good on trach mask.
   Temp to [**Age over 90 144**] yesterday, but WBC down this AM compared to yesterday.
   Serum Na elevated today.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Trach mask
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-20**] 07:00 PM
   Piperacillin - [**2181-2-22**] 05:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   sc heparin, PPI, ASA, allopurinol, atrovent, albuterol, Vanco with
   dialysis, folic acid, epogen, insulin, free water boluses, tylenol,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-22**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 89 (89 - 122) bpm
   BP: 123/46(64){75/40(52) - 124/84(88)} mmHg
   RR: 23 (17 - 51) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.9 kg (admission): 90.9 kg
   Height: 64 Inch
             Total In:
                                                                  1,717 mL
                                                                  1,305 mL
   PO:
             TF:
                                                                  1,268 mL
                                                                    529 mL
   IVF:
                                                                    329 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    120 mL
                                                                    320 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,483 mL
                                                                  1,305 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic), Soft heart sounds. II/VI
   systolic murmur. Diffuse PMI
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Left mid axillary line, No(t) Bronchial: , Wheezes : I/E= [**2-1**],
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Ecchymoses
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   225 K/uL
   128 mg/dL
   3.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   43 mg/dL
   111 mEq/L
   150 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2181-2-17**]  05:38 AM
                             [**2181-2-18**]  03:41 AM
                             [**2181-2-19**]  05:10 AM
                             [**2181-2-20**]  02:11 AM
                             [**2181-2-20**]  07:47 AM
                             [**2181-2-20**]  10:30 AM
                             [**2181-2-20**]  04:28 PM
                             [**2181-2-21**]  03:14 AM
                             [**2181-2-22**]  03:55 AM
   WBC
   13.0
   13.7
   14.3
   14.5
   16.5
   10.1
   Hct
   30.5
   31.7
   28.4
   26.4
   25.1
   25.6
   Plt
   279
   250
   212
   [**Telephone/Fax (3) 135**]
   Cr
   3.9
   5.7
   7.5
   4.8
   6.0
   3.7
   TropT
   0.39
   0.37
   0.36
   TCO2
   26
   Glucose
   72
   153
   280
   210
   131
   128
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:215/5/0.36, ALT / AST:34/43, Alk Phos / T Bili:61/0.7,
   Lactic Acid:2.2 mmol/L, LDH:291 IU/L, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR ([**2181-2-21**]): rotated film. Probable large heart. Possible
   effusions vs atelectasis at bases. No significant change from [**2181-2-20**].
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   [**Last Name (un) 45**] stim wnl, pt with severe AS (valve area 0.8 cm2), ? septic
   physiology
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   previously not tolerating full course of HD
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, OTHER
   no clear infiltrate currently present on CXR
   ACUTE ON CHRONIC RESPIRATORY FAILURE
 .H/O DIABETES MELLITUS (DM), TYPE II
   now off insulin gtt
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Left MCA infarct
 ANEMIA, CHRONIC
   [**3-3**] CKD (baseline HCT 24-28)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   keep K >4
   Doing well off the ventilator. O2 sats good on trach mask. Focal area
   of rales in the left mid axillary line today on exam. Temp last night.
   Continues on antibiotics. Would resend sputum for gram stain and
   culture.
   Dialyzed for renal failure yesterday. Serum Na elevated today and
   patient will need additional free water.
   Hct stable. Not at transfusion threshold.
   One episode of hypotension last night; perhaps related to fluid removed
   at dialysis. Responded well to single fluid bolus.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2181-2-22**] 10:16 AM 52.[**Telephone/Fax (5) 136**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2181-2-20**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes